US07405299B2
A. Preparation of 4-Bromo-indole-1-carboxylic Acid tert-Butyl Ester
Add di-tert-butyl dicarbonate (1.4 g. 6.4 mmol) and sodium hydride (0.15 g, 60% dispersion in mineral oil, 3.8 mmol) to a solution of 4-bromoindole (0.4 mL, 3.2 mmol) in THF (11 mL) at 0° C. Stir the reaction for 22 h, quench with saturated aqueous ammonium chloride, and extract with methylene chloride. Dry the combined organic extracts with sodium sulfate, filter, and concentrate in vacuo. Purify by flash column chromatography, utilizing the appropriate mixture of hexanes and methylene chloride, to provide 0.85 g (90%) of the titled compound as a clear, colorless oil. 1H NMR (CDCl3) δ 8.10 (d, J=8 Hz, 1H), 7.63 (d, J=4 Hz, 1H), 7.38 (d, J=8 Hz, 1H), 7.16 (t, J=8 Hz, 1H), 6.64 (d, J=4 Hz, 1H), 1.67 (s, 9H). TLC (SiO2): Rf0.3 (9:1 hexanes/methylene chloride).

reactant | di-tert-butyl dicarbonate | 6.4 mmol, 1.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydride | 3.8 mmol, 0.15 g | [H-].[Na+]
reactant | 4-bromoindole | 3.2 mmol, 0.4 mL | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
solvent | THF | 11 mL | C1CCOC1 | C4H8O
product | 4-Bromo-indole-1-carboxylic Acid tert-Butyl Ester | 0.85 g, 90% | C(C)(C)(C)OC(=O)N1C=CC2=C(C=CC=C12)Br | C13H14BrNO2
